US05317025
Sodium methylate (18.1 g) is added in portions to a solution of 1-methylpiperidine-4-thiol (22 g) in anhydrous tetrahydrofuran (200 ml). After one hour, the diethyl acetal of bromoacetaldehyde (30.3 ml) is added. After 4 hours at room temperature, the solution is heated for 2 hours at 40° C. The insoluble material is filtered off and rinsed with THF. The filtrate is concentrated and then distilled under reduced pressure to give 4-[(2,2-diethoxyethyl)thio]-1-methylpiperidine (36 g; b.p.=104°-108° C. under 0.05 atm) in the form of an oil.

reactant | Sodium methylate | 18.1 g | C[O-].[Na+]
reactant | 1-methylpiperidine-4-thiol | 22 g | CN1CCC(CC1)S | C6H13NS
reactant | bromoacetaldehyde | 30.3 ml | BrCC=O | C2H3BrO
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-[(2,2-diethoxyethyl)thio]-1-methylpiperidine | 36 g | C(C)OC(CSC1CCN(CC1)C)OCC | C12H25NO2S
